US05861417
Combine (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt (30.9 g, 50.7 mmol) and sodium bicarbonate (11.6 g, 53.2 mmol) in tetrahydrofuran/water (200 mL, 5/1). Cool in ice bath and add di-t-butyl dicarbonate (8.52 g, 101 mmol). After 18 hours, evaporate in vacuo to remove most of the tetrahydrofuran. Dilute with ethyl acetate and extract with water, a saturated aqueous solution of ammonium chloride, a saturated aqueous solution of sodium bicarbonate, and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 50% ethyl acetate/hexane to give 1-t-butoxycarbonyl-3-phenyl-3-(2-hydroxyethyl)pyrrolidine, prepared from (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt: Rf =0.25 (silica gel, 50% ethyl acetate/hexane).

reactant | (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | 50.7 mmol, 30.9 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.C1(=CC=CC=C1)C1(CNCC1)CCO
reactant | sodium bicarbonate | 53.2 mmol, 11.6 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 101 mmol, 8.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran water | 200 mL | O1CCCC1.O
product | 1-t-butoxycarbonyl-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1CC(CC1)(CCO)C1=CC=CC=C1 | C17H25NO3
